US06828317B2
N-{3-[3-Fluoro-4-(5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-2-yl)-phenyl]-2-oxo-oxazolidin-5(S)-ylmethyl}-carbamic acid tert-butyl ester
Di-tert-butyl dicarbonate (0.223 ml, 0.971 mmol) is added to 2-[4-(5(S)-aminomethyl-2-oxo-oxazolidin-3-yl)-2-fluorophenyl]-4H-[1,3,4]thiadiazin-5-one (0.300 g, 0.925 mmol) and pyridine (0.112 ml, 1.39 mmol) in DMF (3 ml) and is stirred overnight at room temperature. The reaction mixture is evaporated to dryness and the residue is purified by PTLC (10% MeOH/DCM) to give a white solid (0.37 g, 94%); 1HNMR (300 MHz, DMSO-d6) δ 1.34 (s, 9H), 3.27 (t, J=5.5 Hz, 2H), 3.59 (s, 2H), 3.82 (dd, J=6.6, 9.3 Hz, 1H), 4.14 (t, J=9.1 Hz, 1H), 4.69-4.77 (m, 1H), 7.23 (t, J=5.5 Hz, 1H), 7.42 (dd, J=2.2, 8.8 Hz, 1H), 7.57 (dd, J=1.9, 14 Hz, 1H), 7.68 (t, J=8.8 Hz, 1H), 11.6 (s, 1H); mp 167-8; MS (m/z): [M+H]+=425.

reactant | Di-tert-butyl dicarbonate | 0.971 mmol, 0.223 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-[4-(5(S)-aminomethyl-2-oxo-oxazolidin-3-yl)-2-fluorophenyl]-4H-[1,3,4]thiadiazin-5-one | 0.925 mmol, 0.300 g | NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C=1SCC(NN1)=O)F | C13H13FN4O3S
reactant | pyridine | 1.39 mmol, 0.112 ml | N1=CC=CC=C1 | C5H5N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-{3-[3-Fluoro-4-(5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-2-yl)-phenyl]-2-oxo-oxazolidin-5(S)-ylmethyl}-carbamic acid tert-butyl ester | 0.37 g, 94% | C(C)(C)(C)OC(NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C=1SCC(NN1)=O)F)=O | C18H21FN4O5S
